US07696297B2
An aqueous THPE/NaOH solution of branching agent was prepared by mixing THPE (6.05 lbs, 8.96 moles) with water (4 L) and an aqueous NaOH solution (50% w/w, 2 L, 3058 grams, 38.2 moles NaOH).

reactant | THPE | 8.96 moles, 6.05 lbs | COC(=O)C1CCOCC1 | C7H12O3
reactant | NaOH | 38.2 moles, 2 L, 3058 grams | [OH-].[Na+]
solvent | water | 4 L | O | H2O
product | THPE NaOH | COC(=O)C1CCOCC1.[OH-].[Na+] | InChI=1S/C7H12O3.Na.H2O/c1-9-7(8)6-2-4-10-5-3-6;;/h6H,2-5H2,1H3;;1H2/q;+1;/p-1
